US09193728B2
Preparation of 6-methyl-3-(6-methylpyridin-3-yl)-N-(propan-2-ylidene)-3,4-dihydroquinolin-1(2H)-amine
To a stirred solution of 6-methyl-3-(6-methylpyridin-3-yl)-1-nitroso-1,2,3,4-tetrahydroquinoline (0.28 g, 0.00104 mol) in acetone (15 mL) was added saturated ammonium chloride solution (0.8 mL) and water (0.8 mL) at RT. The resulting brown colored reaction mixture was cooled to 15° C. Zinc dust (0.954 g, 0.0146 mol) was added portionwise at the same temperature. After the addition, the reaction mixture was stirred for 1 h at RT. After completion of reaction (monitored by TLC), solvent was removed under reduced pressure and the residue extracted with EtOAc. The organic layer was dried over anhydrous sodium sulfate and the solvent removed under reduced pressure to obtain product as a brown colored oil (0.28 g, 91% yield).

reactant | 6-methyl-3-(6-methylpyridin-3-yl)-1-nitroso-1,2,3,4-tetrahydroquinoline | 0.00104 mol, 0.28 g | CC=1C=C2CC(CN(C2=CC1)N=O)C=1C=NC(=CC1)C | C16H17N3O
reactant | ammonium chloride | 0.8 mL | [Cl-].[NH4+]
reactant | water | 0.8 mL | O | H2O
reactant | acetone | 15 mL | CC(=O)C | C3H6O
catalyst | Zinc | 0.0146 mol, 0.954 g | [Zn] | Zn
product | 6-methyl-3-(6-methylpyridin-3-yl)-N-(propan-2-ylidene)-3,4-dihydroquinolin-1(2H)-amine | 0.28 g, 91% yield | CC=1C=C2CC(CN(C2=CC1)N=C(C)C)C=1C=NC(=CC1)C | C19H23N3
